US06316482B1
The solution of 4-[(2-ethoxycarbonylindolin-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (175 mg) in ammonia-methanol solution (8.0 ml) was stood overnight at ambient temperature. The solvent was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent; 8-10% methanol in chloroform) to give 4-[(2-carbamoylindolin-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (160 mg).

reactant | 4-[(2-ethoxycarbonylindolin-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 175 mg | C(C)OC(=O)C1NC2=CC=CC(=C2C1)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C39H49N5O7
reactant | ammonia methanol | 8.0 ml | N.CO
product | 4-[(2-carbamoylindolin-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 160 mg | C(N)(=O)C1NC2=CC=CC(=C2C1)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C37H46N6O6
